US07034039B2
To a solution of tert-butyl[6-(2-amino-2-oxoethoxy)-4-(4-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.20 g, 0.4 mmol) in ethyl acetate (5 mL) was added a solution of 4N hydrogen chloride in ethyl acetate (5 mL) and the obtained solution was stirred at room temperature for 2 h. The reaction mixture was concentrated under reduced pressure, and the residue was crystallized from ethyl acetate-diisopropyl, ether to give 2-[[3-(aminomethyl)-4-(4-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]oxy]acetamide hydrochloride (0.16 g, 94.1%) as crystals.

reactant | tert-butyl[6-(2-amino-2-oxoethoxy)-4-(4-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.4 mmol, 0.20 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=C(C=C1)F)OCC(=O)N)=O)CC(C)C)=O | C27H32FN3O5
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | 2-[[3-(aminomethyl)-4-(4-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]oxy]acetamide hydrochloride | 0.16 g, 94.1% | Cl.NCC=1N(C(C2=CC=C(C=C2C1C1=CC=C(C=C1)F)OCC(=O)N)=O)CC(C)C | InChI=1S/C22H24FN3O3.ClH/c1-13(2)11-26-19(10-24)21(14-3-5-15(23)6-4-14)18-9-16(29-12-20(25)27)7-8-17(18)22(26)28;/h3-9,13H,10-12,24H2,1-2H3,(H2,25,27);1H
